US08686028B2
To a stirred solution of 7-hydroxy-3-(2-hydroxy-phenyl)-chromen-4-one (3 gm, 11.8 mmol) in absolute ethanol (30 ml) at 0° C. was added NaBH4 (2.7 gm, 70.8 mmol). The reaction mixture was then stirred for 24 hours at room temperature. The reaction was stopped by adding ice-cooled water and the solution was neutralized with 10% HCl to get the white precipitate. The white precipitate was washed with water and the purified by silica gel column chromatography using hexane-chloroform as the eluent to give 6a,11a-dihydro-6H-benzo[4,5]furo[3,2-c]chromen-3-ol (1.6 gm, 57%) as white solid.

reactant | 7-hydroxy-3-(2-hydroxy-phenyl)-chromen-4-one | 11.8 mmol, 3 gm | OC1=CC=C2C(C(=COC2=C1)C1=C(C=CC=C1)O)=O | C15H10O4
reactant | NaBH4 | 70.8 mmol, 2.7 gm | [BH4-].[Na+]
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6a,11a-dihydro-6H-benzo[4,5]furo[3,2-c]chromen-3-ol | 1.6 gm, 57% | C1=C2C3C(COC2=CC(=C1)O)C1=C(O3)C=CC=C1 | C15H12O3
